US08633315B2
Step 2: 1-(5-(Methoxymethoxy)-2-(trifluoromethyl)pyridine-4-yl)ethanol
To a stirred solution of piperidine, 2,2,6,6-tetramethyl-(9.2 ml, 54 mmol) in THF (400 ml) at −78° C. was added butyllithium (˜2.5 m in toluene; 18 ml, 45 mmol) dropwise. The reaction was then stirred at 0° C. for 5 min at −78° C., and a solution of 5-(methoxymethoxy)-2-(trifluoromethyl)pyridine (7.5 g, 36 mmol) in THF (100 ml) was added dropwise. The mixture was stirred for an additional 10 min, then acetaldehyde (20 ml, 362 mmol) was added and stirring continued for 15 min. the reaction was slowly quenched with H2O, warmed to RT, extracted with EtOAc (3×), combine organic layers were dried over MgSO4, filtered, concentrated and the crude product was purified by ISCO (20% EtOAc/Hexanes) to give the title compound as a light yellow solid. MS (m+1): 252.2.

reactant | piperidine | N1CCCCC1 | C5H11N
reactant | butyllithium | 45 mmol, 18 ml | C(CCC)[Li]
reactant | 5-(methoxymethoxy)-2-(trifluoromethyl)pyridine | 36 mmol, 7.5 g | COCOC=1C=CC(=NC1)C(F)(F)F | C8H8F3NO2
reactant | acetaldehyde | 362 mmol, 20 ml | C(C)=O | C2H4O
solvent | THF | 400 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 1-(5-(Methoxymethoxy)-2-(trifluoromethyl)pyridine-4-yl)ethanol | COCOC=1C(=CC(=NC1)C(F)(F)F)C(C)O | C10H12F3NO3
